US04404137
1-Methyl-3-(2-nitroanilino)pyrazole-4-carbonitrile
3-Amino-1-methylpyrazole-4-carbonitrile (Helv. Chim. Acta (1959) 42, 763) (7.5 g) and 2-fluoronitrobenzene (8.4 g) were stirred in toluene (120 ml) with Adogen 464 (3.0 g) and potassium carbonate (16.5 g) at 60° C. 50% Sodium hydroxide solution (0.1 ml) was added and the mixture was heated under reflux for 2 hours. The mixture was poured on to dilute hydrochloric acid, extracted, the aqueous layer washed with toluene and the combined extracts washed twice with water. After evaporation the residue was crystallised from ethanol (750 ml) to give the title compound, m.p. 172° C.

reactant | 3-Amino-1-methylpyrazole-4-carbonitrile | 7.5 g | NC1=NN(C=C1C#N)C | C5H6N4
reactant | 2-fluoronitrobenzene | 8.4 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 16.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | Sodium hydroxide | 0.1 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Adogen 464 | 3.0 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 1-Methyl-3-(2-nitroanilino)pyrazole-4-carbonitrile | CN1N=C(C(=C1)C#N)NC1=C(C=CC=C1)[N+](=O)[O-] | C11H9N5O2
